US06420546B1
5′-O-(Dimethoxytrityl)-2′-fluoro-2′-deoxyuridine
0.5 g (about 2 mmol) of 2′-fluoro-2′-deoxyuridine is coevaporated with 10 ml of abs. pyridine twice in a 50 ml Schlenk flask. The dried nucleoside is taken up in 25 ml of abs. pyridine and, at room temperature, 0.66 g (about 2.2 mmol) of dimethoxytrityl chloride and 10 mg of 4-dimethylaminopyridine are added. After three hours, 1 ml of methanol was added to the mixture, which was then evaporated to dryness in vacuo. The remaining oil is taken up in 50 ml of methylene chloride (deacidified over aluminum oxide) and extracted three times with 50 ml of water. The organic phase is dried over sodium sulfate. After the methylene chloride had been stripped off, the crude product remained as a solid foam. To remove more highly tritylated components and the tritanol, the crude product was digested with 30 ml of abs. benzene at 40-50° C.

reactant | 2′-fluoro-2′-deoxyuridine | about 2 mmol, 0.5 g | F[C@H]1[C@@H](O[C@@H]([C@H]1O)CO)N1C(=O)NC(=O)C=C1 | C9H11FN2O5
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | dimethoxytrityl chloride | about 2.2 mmol, 0.66 g | COC=1C(=C(C(C2=CC=CC=C2)(C2=CC=CC=C2)Cl)C=CC1)OC | C21H19ClO2
catalyst | 4-dimethylaminopyridine | 10 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methanol | 1 ml | CO | CH4O
product | 5′-O-(Dimethoxytrityl)-2′-fluoro-2′-deoxyuridine | COC=1C(=C(C(C2=CC=CC=C2)(C2=CC=CC=C2)OC[C@@H]2[C@H]([C@H]([C@@H](O2)N2C(=O)NC(=O)C=C2)F)O)C=CC1)OC | C30H29FN2O7
